US08859591B2
Step A: 5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-amine
The title compound was prepared by a method analogous to that described for Intermediate (6) using 4-trifluoromethyl-1H-pyrazole and 2-chloro-3-methyl-5-nitro-pyridine. 1H NMR (400 MHz, CDCl3, δ): 8.21 (s, 1H), 7.85 (s, 1H), 7.75 (d, J=2.4 Hz, 1H), 6.93 (d, J=2.4 Hz, 1H), 3.85 (s, 2H), 2.32 (s, 3H).

reactant | 4-trifluoromethyl-1H-pyrazole | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | 2-chloro-3-methyl-5-nitro-pyridine | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
product | 5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-amine | CC=1C=C(C=NC1N1N=CC(=C1)C(F)(F)F)N | C10H9F3N4
